US05703050
b) 4-(Benzylaminomethyl)benzonitrile
3.44 g (15 mmol) of 4-(benzyloximinomethyl)benzonitrile in 120 ml of ethanol are cooled to -15° C. 4.46 g (48 mmol, 4.85 ml) of borane-pyridine complex are then added dropwise in the course of 10 minutes and then 26 ml of ethanolic HCl solution in the course of 20 minutes. After stirring at room temperature for 24 h, the resulting solid is filtered off, dissolved in dichloromethane and the solution is washed with water and sodium hydrogen carbonate solution. The organic phase is dried and concentrated in vacuo.

reactant | 4-(benzyloximinomethyl)benzonitrile | 15 mmol, 3.44 g | C(C1=CC=CC=C1)C(C1=CC=C(C#N)C=C1)=NO | C15H12N2O
reactant | HCl | 26 ml | Cl | ClH
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 4-(Benzylaminomethyl)benzonitrile | C(C1=CC=CC=C1)NCC1=CC=C(C#N)C=C1 | C15H14N2
